US08466282B2
Methyl 5-bromo-1H-pyrrole-2-carboxylate
Methyl 1-(4-methoxybutyl)-1H-pyrrole-2-carboxylate (4.5 g) was dissolved in dichloromethane (30 ml), N-bromosuccinimide (4.0 g) was added and the mixture was stirred for 1 hr. The reaction mixture was washed successively with water and brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (1:4) was concentrated under reduced pressure to give the object product (2.2 g).

reactant | Methyl 1-(4-methoxybutyl)-1H-pyrrole-2-carboxylate | 4.5 g | COCCCCN1C(=CC=C1)C(=O)OC | C11H17NO3
reactant | N-bromosuccinimide | 4.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | Methyl 5-bromo-1H-pyrrole-2-carboxylate | 2.2 g | BrC1=CC=C(N1)C(=O)OC | C6H6BrNO2
